US04440940
Preparation of N-[3-(4-pentadecenylamino)benzoyl]-2,3-dihydroxypropylamine
To a mixture containing 4.3 g. of [N-(t-butyloxycarbonyl)-3-(4-pentadecenylamino)benzoyl]imidazole, 50 ml. of chloroform, and 50 ml. of 5 N sodium hydroxide is added 1.1 g. of 3-amino-1,2-propanediol. The mixture is vigorously stirred for 24 hours, the layers are separated, and the chloroform solution is washed once with 50 ml. of 1 N sodium hydroxide. The solvent is evaporated and the residue is heated for 30 minutes at 40° C. in 50 ml. of anhydrous trifluoroacetic acid. The solvent is again evaporated and the resulting oil is crystallized from acetone to yield the product as light yellow crystals.

reactant | [N-(t-butyloxycarbonyl)-3-(4-pentadecenylamino)benzoyl]imidazole | C(C)(C)(C)OC(=O)N(C=1C=C(C(=O)C=2NC=CN2)C=CC1)CCCC=CCCCCCCCCCC | C30H45N3O3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(4-pentadecenylamino)benzoyl]-2,3-dihydroxypropylamine | C(CCC=CCCCCCCCCCC)NC=1C=C(C(=O)NCC(CO)O)C=CC1 | C25H42N2O3
